US06610846B1
A solution of triphenylphosphine (345 mg, 1.31 mmol) in methylene chloride (4 mL) was cooled to 0° C. and then treated with N-bromosuccinimide (234 mg, 1.31 mmol). The reaction mixture was stirred at 0° C. for 15 min and then treated with 3-cyclopentyl-2(R)-(4-methanesulfonylphenyl)propionic acid (300 mg, 1.01 mmol). The resulting reaction mixture was stirred at 0° C. for 5 min and then allowed to warm to 25° C. where it was stirred for 25 min. The reaction mixture was then treated with 2-amino-4-methylthiazole (288 mg, 2.52 mmol). The resulting reaction mixture was allowed to stir at 25° C. for 20 h. The reaction mixture was then diluted with water (30 mL), a 1N aqueous hydrochloric acid solution (5 mL), and ethyl acetate (30 mL). The layers were separated, and the organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 1/1 hexanes/ethyl acetate) afforded 3-cyclopentyl-2(R)-(4-methanesulfonyl-phenyl)-N-(4-methyl-thiazol-2-yl)-propionamide (192 mg, 48%) as an off-white foam: mp 83-87° C. (foam to gel); [α]23589=−35.7° (c=1.01, chloroform); EI-HRMS m/e calcd for C19H24N2O3S2 (M+) 392.1228, found 392.1227.

reactant | triphenylphosphine | 1.31 mmol, 345 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 1.31 mmol, 234 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-cyclopentyl-2(R)-(4-methanesulfonylphenyl)propionic acid | 1.01 mmol, 300 mg | C1(CCCC1)C[C@@H](C(=O)O)C1=CC=C(C=C1)S(=O)(=O)C | C15H20O4S
reactant | 2-amino-4-methylthiazole | 2.52 mmol, 288 mg | NC=1SC=C(N1)C | C4H6N2S
reactant | hydrochloric acid | 1N, 5 mL | Cl | ClH
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
solvent | water | 30 mL | O | H2O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 3-cyclopentyl-2(R)-(4-methanesulfonyl-phenyl)-N-(4-methyl-thiazol-2-yl)-propionamide | 192 mg, 48% | C1(CCCC1)C[C@@H](C(=O)NC=1SC=C(N1)C)C1=CC=C(C=C1)S(=O)(=O)C | C19H24N2O3S2
